US06075018
1-(3,4-Dimethoxystyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
To a solution of 2.04 g (5.6 mmoles) 1-(3,4-dimethoxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in 40 ml of anhydrous dichloromethane 1.0 ml (8.4 mmoles) of borotrifluoride etherate is added under cooling with tap water, and 0.45 g (6.16 mmoles) of borane trimethylamine complex is added to it. The reaction mixture is stirred at 25° C. for 0.5 hour, and then 30 ml of 10% aqueous sodium carbonate solution are dropped to it under cooling with tap water, and the mixture is stirred further for 1 hour. The organic phase is separated, washed four times with 30 ml each of distilled water, dried and evaporated. The crystalline residue is suspended in 10 ml of ethanol, filtered, washed three times with 1 ml each of ethanol and dried at a temperature between 80° C. and 100° C. Thus 1.76 g of the desired product is obtained. M.p.: 166-168° C.

reactant | 1-(3,4-dimethoxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 5.6 mmoles, 2.04 g | COC=1C=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=CC1OC | C21H20N2O4
reactant | dichloromethane | 8.4 mmoles, 40 ml | ClCCl | CH2Cl2
reactant | borane trimethylamine complex | 6.16 mmoles, 0.45 g | [B-][N+](C)(C)C | C3H9BN
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 1-(3,4-Dimethoxystyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 1.76 g | COC=1C=C(C=CC2=NNC(CC3=C2C=C2C(=C3)OCO2)C)C=CC1OC | C21H22N2O4
